US08138348B2
Synthesis of Pyridyl Oxazoline A2
Methyl-6-phenylpyridyl-2-imidate (0.160 g, 0.754 mmol) was dissolved in CH2Cl2 (3 mL). Triethylamine (0.12 mL, 0.83 mmol) was added followed by 2-(S)-amino-3-cyclohexylpropanol hydrochloride (0.161 g, 0.829 mmol). The reaction vessel was sealed and heated on a heating block (50° C.) for 16 hours and the resultant solution was then filtered to remove the insoluble salts. The filtrate was loaded onto the top of a Biotage cartridge (silica gel, 40S) and the product was eluted using a stepped gradient of 0 to 30% ethyl acetate in hexanes as the eluent. The product was obtained after evaporation of the eluent as a slightly yellow solid (0.181 g, 75%).

reactant | Triethylamine | 0.83 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(S)-amino-3-cyclohexylpropanol hydrochloride | 0.829 mmol, 0.161 g | Cl.N[C@H](CO)CC1CCCCC1
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Pyridyl Oxazoline | N1=C(C=CC=C1)C=1OCCN1 | C8H8N2O
